US05981572
1-(2,2-Dimethoxyethoxy)-4-fluoro-3-methylbenzene
A solution of diethyl cyanophosphonate (2.79 g) in dry tetrahydrofuran (10 ml) was added to a suspension of sodium hydride (60% oil dispersion; 0.63 g) in THF (16 ml) over 5 mins with ice cooling. After 15 min, a solution of 5-fluorobenzofuran-4-carbaldehyde (2.15 g) in THF (10 ml) was added and after 5 mins the solution was warmed up and stirred at room temperature for 3 h. Brine (20 ml) and ethyl acetate (20 ml) were added, the phases separated and the aqueous extracted with ethyl acetate (2×25 ml). The extracts were dried and evaporated and the residue purified by chromatography (Biotage Flash 40; 90 g; ethyl acetate:hexane 1:9) to give the title compound as a cream solid (1.97 g)

reactant | diethyl cyanophosphonate | 2.79 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | sodium hydride | 0.63 g | [H-].[Na+]
reactant | 5-fluorobenzofuran-4-carbaldehyde | 2.15 g | FC1=CC=C2C(C=CO2)=C1C=O | C9H5FO2
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | THF | 16 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | Brine | 20 ml | [Cl-].[Na+].O
product | 1-(2,2-Dimethoxyethoxy)-4-fluoro-3-methylbenzene | 1.97 g | COC(COC1=CC(=C(C=C1)F)C)OC | C11H15FO3
